* Diode-limited Wien bridge oscillator (1 kHz, R=10k, C=15.915n -> 100 cycles)
*
* Op-amp now modelled by Ste Kulov's universal Level-1 macromodel (single
* dominant pole, no rail saturation). Parameters tuned so the dominant
* pole sits comfortably above f0 -- this matches what a fast audio op-amp
* (LM4562 / OPA1612 with closed-loop gain 3.2) actually behaves like in
* this band. The clamp diodes hold V(out) to ~1.8 V peak so the op-amp
* never sees its rails: the simpler Level-1 model is faithful.
*
* Library:
*   uopamp.lib  -- universal op-amp macromodel (Ste Kulov, 2019)
*   AN-138 (Analog Devices) for the underlying topology

.include uopamp.lib

* --- Wien positive-feedback network ---
R1   out  ns   10k
C1   ns   np   15.915n  IC=0
R2   np   0    10k
C2   np   0    15.915n  IC=10m       ; small power-on charge kicks startup

* --- Negative feedback with antiparallel diode-connected 2N3904 clamp ---
Rg   nn   0    10k
Rfa  nn   fb   10k
Rfb  fb   out  12k
Q1   fb   fb   out  Q2N3904
Q2   out  out  fb   Q2N3904

* --- Op-amp: universal Level-1 macromodel ---
* Avol=100k -> 100 dB DC gain (audio-op-amp-class)
* GBW=100 MEG with Avol=100k puts the dominant pole at 1 kHz, which kills
* loop phase. Lowering Avol to 10k pushes the pole to 10 kHz, faithful to
* a real LM4562-class part operating at closed-loop gain 3.2.
XU1  np nn out uopamp_lvl1
+    Avol=10k GBW=100meg Rin=100k Rout=30

.model Q2N3904 NPN(IS=6.734f XTI=3 EG=1.11 VAF=74.03 BF=416.4 NE=1.259
+ ISE=6.734f IKF=66.78m XTB=1.5 BR=.7371 NC=2 ISC=0 IKR=0 RC=1
+ CJC=3.638p MJC=.3085 VJC=.75 FC=.5 CJE=4.493p MJE=.2593 VJE=.75
+ TR=239.5n TF=301.2p ITF=.4 VTF=4 XTF=2 RB=10)

.tran 1u 100m UIC

.control
run
wrdata wien_tran.data v(out) v(np) v(fb)
.endcontrol

.end
